US20010049371A1
N-Benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-phthalimidopropionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-phthalimido-propanoic acid (869 mg, 2.36 mmol), N,N′-carbonyldiimidazole (410 mg, 2.53 mmol) and O-benzylhydroxylamine hydrochloride (444 mg, 2.78 mmol) in tetrahydrofuran (6 mL) to afford N-benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-phthalimidopropionamide as a white solid (1.05 g, 94% yield): mp, 165.0-166.0° C.; 1H NMR (CDCl3) δ1.44 (t, J=7.0 Hz, 3H, CH3), 2.95 (dd, J=5.8, 14.0 Hz, 1H, CHH), 3.49 (t, J=12.1 Hz, 1H, CHH), 3.83 (s, 3H, CH3), 4.07 (q, J=7.0 Hz, 2H, CH2), 4.77 (br s, 2H, PhCH2), 5.83 (dd, J=6.0, 10.0 Hz, 1H, NCH), 6.79 (d, J=8.0 Hz, 1H, Ar), 7.06-7.09 (m, 2H, Ar), 7.25-7.85 (m, 5H, Ar), 7.66-7.71 & 7.74-7.79 (2ms, 4H, Ar), 8.34 (br s, 1H, NH); 13C NMR (CDCl3) δ14.68, 35.66, 51.54, 55.88, 64.34, 78.13, 111.32, 12.52, 120.08, 123.29, 128.52, 128.67, 129.06, 131.26, 131.76, 133.98, 134.98, 148.31, 149.15, 167.38, 168.26. Anal. Calcd for C27H26N2O6: C, 68.34; H, 5.52; N, 5.90. Found: C, 68.36; H, 5.47; N, 5.74.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-phthalimido-propanoic acid | 2.36 mmol, 869 mg | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C20H19NO6
reactant | O-benzylhydroxylamine hydrochloride | 2.78 mmol, 444 mg | Cl.C(C1=CC=CC=C1)ON
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-phthalimidopropionamide | 1.05 g, 94% yield | C(C1=CC=CC=C1)ONC(CC(N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=C(C=C2)OC)OCC)=O | C27H26N2O6
